US07432270B2
N-(4-Benzyl-morpholin-3-ylmethyl)-2,2,2-trifluoroacetamide
To (4-benzyl-morpholin-3-yl)-methylamine (7.34 g) in dichloromediane (240 ml) was added triethylamine (5.83 ml), followed by dropwise addition of trifluoroacetic anhydride (8.23 g) over 25 min at 0° C. under argon. The reaction mixture was allowed to reach ambient temperature and after stirring for 18 h, was diluted in dichloromethane and washed with saturated aqueous sodium hydrogencarbonate. The organic phase was separated, dried and evaporated to afford a brown gum that was purified on silica gel, eluting with ethyl acetate-pentane mixtures to afford the title product (5.17 g) as an orange gum. Mass Spectrum (API+): Found 303 (MH+). C14H17F3N2O2requires 302.

reactant | (4-benzyl-morpholin-3-yl)-methylamine | 7.34 g | C(C1=CC=CC=C1)N1C(COCC1)NC | C12H18N2O
reactant | triethylamine | 5.83 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 8.23 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-Benzyl-morpholin-3-ylmethyl)-2,2,2-trifluoroacetamide | 5.17 g | C(C1=CC=CC=C1)N1C(COCC1)CNC(C(F)(F)F)=O | C14H17F3N2O2
